US05348978
b) 2(R)-(3-(Acetylthio)-2(S)-methyl-1-oxopropoxy)-3-(methylthio)propanoic acid
(S)-3-(Acetylthio)-2-methylpropanoic acid (0.38 g, 2.35 mmol) and 1,1'-carbonyldiimidazole (0.38 g, 2.35 mmol) were stirred under nitrogen, in tetrahydrofuran (10 ml). After 30 min, a solution of (R)-2-hydroxy-3-(methylthio)propanoic acid (0.32 g, 2.35 mmol), triethylamine (0.33 ml, 2.35 mmol) and tetrahydrofuran (10 ml) was added dropwise. The reaction mixture was stirred at 25° for 18 h before evaporation of the solvent. The residue was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The organic extracts were dried (Na2SO4) and the solvent evaporated. Chromatography on silica with dichloromethane/ethyl acetate as eluant gave the sub-title compound (0.1 g).

reactant | (S)-3-(Acetylthio)-2-methylpropanoic acid | 2.35 mmol, 0.38 g | C(C)(=O)SC[C@H](C(=O)O)C | C6H10O3S
reactant | 1,1'-carbonyldiimidazole | 2.35 mmol, 0.38 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (R)-2-hydroxy-3-(methylthio)propanoic acid | 2.35 mmol, 0.32 g | O[C@H](C(=O)O)CSC | C4H8O3S
reactant | triethylamine | 2.35 mmol, 0.33 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2(R)-(3-(Acetylthio)-2(S)-methyl-1-oxopropoxy)-3-(methylthio)propanoic acid | 0.1 g | C(C)(=O)SC[C@H](C(O[C@H](C(=O)O)CSC)=O)C | C10H16O5S2
